US06770665B2
3-(2-Chloro-6-fluorophenyl)-1-methyl-5-(4-methylthien-3-yl)-1H-1,2,4-triazole
A solution of methylhydrazine (2.02 mL, 1.75 g, 38 mmol) in toluene (5 mL) was added at a rapid dropwise rate to a solution of methyl 2-chloro-6-fluoro-N-[(4-methylthien-3-yl) carbonyl]benzenecarbimidothioate (4.15 g, 12.7 mmol) in dry toluene (100 mL) at 55° C. The reaction was stirred at this temperature for 10 minutes and then left at room temperature for 14 hours. Another identical portion of methylhydrazine in toluene was added at room temperature and the reaction was heated at 80° C. for 3 hours and refluxed for an additional 3 hours. After cooling to room temperature, the reaction mixture was washed with water (100 mL), dilute hydrochloric acid (0.05 N, 2×100 mL) and brine (70 mL), dried over magnesium sulphate and concentrated under reduced pressure. The residue was recrystallised from ethyl acetate/hexane to give white cubes. The mother liquor was chromatographed (eluant, 30:9:1 hexane/methylene chloride/acetonitrile to afford the product (3.25 g, 84%): mp 153-155° C.; 1H NMR (CDCl3) δ 7.54 (d, 1H), 7.26-7.38 (m, 2H), 7.06-7.13 (m, 2H), 3.98 (s, 3H), 2.35 (d, 3H); 19F NMR (external reference)—110 ppm; EI/MS 307 m/e (M−1).

reactant | methylhydrazine | 38 mmol, 2.02 mL, 1.75 g | CNN | CH6N2
reactant | methyl 2-chloro-6-fluoro-N-[(4-methylthien-3-yl) carbonyl]benzenecarbimidothioate | 12.7 mmol, 4.15 g | ClC1=C(C(=CC=C1)F)C(=NC(=O)C1=CSC=C1C)SC | C14H11ClFNOS2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Chloro-6-fluorophenyl)-1-methyl-5-(4-methylthien-3-yl)-1H-1,2,4-triazole | 3.25 g, 84% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC=C1C)C | C14H11ClFN3S
